US09304126B2
2-((2-Aminophenyl)thio)benzoic acid
To a solution of 2-((2-nitrophenyl)thio)benzoic acid, prepared as described in the previous step, (43.3 g, 0.157 mol) in ethyl acetate (500 mL) was added Pd/C (8 g). The reaction solution was stirred at room temperature overnight under hydrogen gas atmosphere. The mixture was filtered and concentrated to provide the title compound.

reactant | 2-((2-nitrophenyl)thio)benzoic acid | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C13H9NO4S
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 8 g | [Pd] | Pd
product | 2-((2-Aminophenyl)thio)benzoic acid | NC1=C(C=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C13H11NO2S
